US20010027196A1
To a stirred solution of 310 mg (1.27 mmol) 2,6-diamino-4-furan-2-yl-4H-thiopyran-3,5-dicarbonitrile in 20 ml ethanol was added 7.5 ml 25% ammonium hydroxide solution and the mixture was heated at reflux for 2 hours. The reaction mixture was then concentrated in vacuo and the residue triturated in ether to afford 170 mg (55%) 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3,5-dicarbonitrile as a dark red crystalline solid. EI-MS m/e (%): 242 (M+, 100).

reactant | 2,6-diamino-4-furan-2-yl-4H-thiopyran-3,5-dicarbonitrile | 1.27 mmol, 310 mg | NC=1SC(=C(C(C1C#N)C=1OC=CC1)C#N)N | C11H8N4OS
reactant | ammonium hydroxide | 7.5 ml | [OH-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3,5-dicarbonitrile | 170 mg, 55% | NC1=C(C(=C(C(N1)=S)C#N)C=1OC=CC1)C#N | C11H6N4OS
